US04359420
A mixture of 3.12 g (10 mmol) of ethyl (S)-10,11,12,12a-tetrahydro-8-oxo-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepine-1-carboxylate, 80 mg of powdered potassium cyanide and 30 ml of ethyleneglycol is stirred at 100° C. overnight. After removal of the ethyleneglycol, the residue is purified by column chromatography. There is obtained 2-hydroxyethyl (S)-10,11,12,12a-tetrahydro-8-oxo-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepine-1-carboxylate of melting point 182°-184° C.

reactant | ethyl (S)-10,11,12,12a-tetrahydro-8-oxo-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepine-1-carboxylate | 10 mmol, 3.12 g | O=C1C2=C(N3C([C@H]4N1CCC4)=C(N=C3)C(=O)OCC)C=CS2 | C15H15N3O3S
reactant | potassium cyanide | 80 mg | [C-]#N.[K+]
reactant | ethyleneglycol | 30 ml | C(CO)O | C2H6O2
product | 2-hydroxyethyl (S)-10,11,12,12a-tetrahydro-8-oxo-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepine-1-carboxylate | O=C1C2=C(N3C([C@H]4N1CCC4)=C(N=C3)C(=O)OCCO)C=CS2 | C15H15N3O4S
